US03944531
In the same manner as Example 1: 2-bromo- 6-methyl-heptane was reacted with o-bromo-phenol to obtain o-bromo-phenyl 1,5-dimethyl-hexyl ether (boiling point = 190°-193°C/17 mmHg);

reactant | 2-bromo- 6-methyl-heptane | BrC(C)CCCC(C)C | C8H17Br
reactant | o-bromo-phenol | BrC1=C(C=CC=C1)O | C6H5BrO
product | o-bromo-phenyl 1,5-dimethyl-hexyl ether | CC(CCCC(C)C)OC1=C(C=CC=C1)Br | C14H21BrO
